US08222281B2
(37A) 4-(3,4-Dichlorobenzyloxy)-3-methylbenzaldehyde
4-Hydroxy-3-methylbenzaldehyde (365 mg, 2.68 mmol), 3,4-dichlorobenzyl alcohol (665 mg, 3.76 mmol), and triphenylphosphine (980 mg, 3.74 mmol) were dissolved in tetrahydrofuran (8 mL), and a diethyl azodicarboxylate toluene solution (2.2 M, 1.71 mL, 3.76 mmol) was slowly added dropwise thereto at room temperature, and then, the resulting mixture was stirred under a nitrogen atmosphere at room temperature for 2 hours. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 95:5 (v/v)), whereby the objective title compound was obtained as a white solid (542 mg, yield: 69%).

reactant | 4-Hydroxy-3-methylbenzaldehyde | 2.68 mmol, 365 mg | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | 3,4-dichlorobenzyl alcohol | 3.76 mmol, 665 mg | ClC=1C=C(CO)C=CC1Cl | C7H6Cl2O
reactant | triphenylphosphine | 3.74 mmol, 980 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 3.76 mmol, 2.2 M, 1.71 mL | C1(=CC=CC=C1)C.N(=NC(=O)OCC)C(=O)OCC
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-(3,4-Dichlorobenzyloxy)-3-methylbenzaldehyde | 542 mg, yield: 69% | ClC=1C=C(COC2=C(C=C(C=O)C=C2)C)C=CC1Cl | C15H12Cl2O2
